US07312224B2
6.3 A solution of 180 ml of methyl cyanoacetate in 300 ml of DMF is added dropwise at 0-50° with stirring and under a nitrogen atmosphere to a solution of 88 g of NaH suspension in 2 litres of DMF. The mixture is stirred for a further 30 minutes without cooling. A solution of 106 ml of o-fluoronitrobenzene in 100 ml of DMF is subsequently added dropwise, and the mixture is stirred at room temperature for a further 14 hours. The mixture is acidified using 10% HCl and subjected to conventional work-up, giving 165 g of methyl cyano(2-nitrophenyl)acetate (“FC”), m.p. 58-60°.

reactant | methyl cyanoacetate | 180 ml | C(#N)CC(=O)OC | C4H5NO2
reactant | NaH | 88 g | [H-].[Na+]
reactant | o-fluoronitrobenzene | 106 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | HCl | Cl | ClH
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 litres | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl cyano(2-nitrophenyl)acetate | 165 g | C(#N)C(C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-] | C10H8N2O4
